US08486940B2
(4S,5R)-3-(1H-benzo[d]imidazol-6-yl)-4,5-diphenyloxazolidin-2-one
The compound was synthesized starting from (4S,5R)-4,5-diphenyloxazolidin-2-one (0.479 g, 2 mmol), 4-bromobenzene-1,2-diamine (0.374 g, 2 mmol), copper(I) iodide (0.038 g, 0.2 mmol), potassium carbonate (0.553 g, 4 mmol), cyclohexane-1,2-diamine (0.024 mL, 0.2 mmol), 5N HCl (5.8 mL), formic acid (0.582 mL) as described in method 5 step D

reactant | (4S,5R)-4,5-diphenyloxazolidin-2-one | 2 mmol, 0.479 g | C1(=CC=CC=C1)[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C15H13NO2
reactant | 4-bromobenzene-1,2-diamine | 2 mmol, 0.374 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | potassium carbonate | 4 mmol, 0.553 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexane-1,2-diamine | 0.2 mmol, 0.024 mL | C1(C(CCCC1)N)N | C6H14N2
reactant | HCl | 5N, 5.8 mL | Cl | ClH
catalyst | copper(I) iodide | 0.2 mmol, 0.038 g | [Cu]I
solvent | formic acid | 0.582 mL | C(=O)O | CH2O2
product | (4S,5R)-3-(1H-benzo[d]imidazol-6-yl)-4,5-diphenyloxazolidin-2-one | N1C=NC2=C1C=C(C=C2)N2C(O[C@@H]([C@@H]2C2=CC=CC=C2)C2=CC=CC=C2)=O | C22H17N3O2
